US05902803
19 ml of 1N sodium hydroxide solution are added dropwise, under a stream of nitrogen and at a temperature in the region of 20° C., to a suspension of 1.9 g of ethyl 9-(1-ethoxycarbonylethyl)-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-2-carboxylate in a mixture of dioxane (245 ml) and distilled water (65 ml). The reaction is continued for 4 hours and 30 minutes at the same temperature. The insoluble material, formed after partial evaporation of the solvents, is filtered, washed with water and then with a mixture of dimethylformamide (10 ml) and methanol (80 ml), and dried. The solid is dissolved in 20 ml of 1N sodium hydroxide solution and stirred for 4 hours at a temperature in the region of 20° C. The reaction mixture is then treated with 1N hydrochloric acid to pH 1 and the precipitate formed is filtered, washed with water and then with acetone and dried to result in 0.62 g of the hydrate of 9-(1-carboxyethyl)-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-2-carboxylic acid in the form of a pink powder, the melting point of which is greater than 260° C. (Analysis C17H13N3O5.1.4H2O; % Calculated C: 60.18, H: 3.86, N: 12.38; % Found C: 60.1, H: 3.2, N: 12.5; 1H NMR spectrum in d6-DMSO, T=300K, δ in ppm (300 MHz): 1.5 (3H, CH3), 3.9 (1H, CH), 4.1 (2H, CH2), 7.3, 7.5, 7.9 (each 1H, 3 arom. CH), 8.6 (1H, imidazole CH), between 12 and 13.5 (3H, 2 COOH and NHCO)).

reactant | sodium hydroxide | 1N, 19 ml | [OH-].[Na+]
reactant | ethyl 9-(1-ethoxycarbonylethyl)-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-2-carboxylate | 1.9 g | C(C)OC(=O)C(C)C=1C=2CC3=C(NC(C=4N3C=C(N4)C(=O)OCC)=O)C2C=CC1 | C21H21N3O5
solvent | dioxane | 245 ml | O1CCOCC1 | C4H8O2
product | 9-(1-carboxyethyl)-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-2-carboxylic acid | C(=O)(O)C(C)C=1C=2CC3=C(NC(C=4N3C=C(N4)C(=O)O)=O)C2C=CC1 | C17H13N3O5
